US05422354
B. 8-(Diphenylmethyl)-9-azatricyclo[4.3.1.04,9 ]decan-7-one
To a 100 ml three-necked round-bottomed flask equipped with a rubber septum and nitrogen inlet were added 5 ml dry toluene and 4.43 ml (13.3 mmol) of a 3.0M solution of phenyl magnesium bromide in ether. The solution was cooled to 0° C., and a solution of 2.07 g (8.87 mmol) 8-benzylidene-9-azatricyclo[4.3.1.04,9 ]decan-7-one in 20 ml toluene was added over 5 min. The reaction was allowed to stir at 0° C. for 1 hour and then poured into saturated aqueous ammonium chloride. The mixture was extracted into ethyl acetate, and the organic layer washed with saturated aqueous ammonium chloride and brine, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel using hexane/ethyl acetate as eluent and the product fractions combined to afford 1.47 g (53%) of a white solid, mp 137°-138° C.

reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 8-benzylidene-9-azatricyclo[4.3.1.04,9 ]decan-7-one | 8.87 mmol, 2.07 g | C(C1=CC=CC=C1)=C1C(C2CC3CCC(N13)C2)=O | C16H17NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 8-(Diphenylmethyl)-9-azatricyclo[4.3.1.04,9 ]decan-7-one | 1.47 g, 53% | C1(=CC=CC=C1)C(C1C(C2CC3CCC(N13)C2)=O)C2=CC=CC=C2 | C22H23NO
